US07541473B2
4.2. Preparation of (3-(2-pyridyl-1-phenylmethyl)indenyl)chromium dichloride
A solution of 4.63 g (0.016 mol) of [2-(1H-inden-3-yl)(phenyl)methyl]pyridine in 60 ml of tetrahydrofuran was cooled to −100° C. 11 ml of a 15% strength n-butyllithium solution in hexane (0.016 mol) were slowly added dropwise. After the addition was complete, the reaction mixture was stirred at −100° C. for a further one hour. The mixture was subsequently allowed to warm to room temperature. After stirring for a further one hour, the solution was cooled to −60° C. and 6.15 g (0.016 mol) of chromium trichloride tris(tetrahydrofuran) was added while stirring. The mixture was allowed to warm slowly to room temperature and was subsequently stirred for another 10 hours at room temperature. The reaction mixture was then refluxed for 20 minutes and subsequently cooled to room temperature. The solid which had precipitated was filtered off, washed with diethyl ether and dried under reduced pressure. This gave 4.4 g of (3-(2-pyridyl-1-phenylmethyl)indenyl)chromium dichloride (40%).

reactant | [2-(1H-inden-3-yl)(phenyl)methyl]pyridine | 0.016 mol, 4.63 g | C1C=C(C2=CC=CC=C12)C1=C(C=CC=C1)CC1=NC=CC=C1 | C21H17N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.016 mol | CCCCCC | C6H14
reactant | chromium trichloride tris(tetrahydrofuran) | 0.016 mol, 6.15 g | O1CCCC1.O1CCCC1.O1CCCC1.[Cl-].[Cl-].[Cl-].[Cr+3]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (3-(2-pyridyl-1-phenylmethyl)indenyl)chromium dichloride | [Cl-].[Cl-].N1=C(C=CC=C1)C(C1=CC=CC=C1)C1=CC(C2=CC=CC=C12)[Cr+2] | InChI=1S/C21H16N.2ClH.Cr/c1-2-9-17(10-3-1)21(20-12-6-7-15-22-20)19-14-13-16-8-4-5-11-18(16)19;;;/h1-15,21H;2*1H;/q;;;+2/p-2
